US08685969B2
5. 3-(1-(2-Fluorophenyl)-2-nitroethyl)-6-methyl-5-(pyrimidin-5-yloxy)-1H-indole
6-Methyl-5-(pyrimidin-5-yloxy)-1H-indole (0.1783 g, 0.792 mmol) and (E)-1-fluoro-2-(2-nitrovinyl)benzene (0.159 g, 0.950 mmol) were dissolved in CH2Cl2, and the solution was concentrated in vacuo. The residue was heated at 130° C. for 4 hr, and the crude product was purified by flash chromatography using an ISCO 40 g column eluting with 0-5% MeOH/CH2Cl2. Appropriate fractions were collected and concentrated in vacuo to give the desired product (0.1644 g, 0.419 mmol, 52.9% yield) as a tan foam.

reactant | 6-Methyl-5-(pyrimidin-5-yloxy)-1H-indole | 0.792 mmol, 0.1783 g | CC1=C(C=C2C=CNC2=C1)OC=1C=NC=NC1 | C13H11N3O
reactant | (E)-1-fluoro-2-(2-nitrovinyl)benzene | 0.950 mmol, 0.159 g | FC1=C(C=CC=C1)\C=C\[N+](=O)[O-] | C8H6FNO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(1-(2-Fluorophenyl)-2-nitroethyl)-6-methyl-5-(pyrimidin-5-yloxy)-1H-indole | 0.419 mmol, 0.1644 g, 52.9% yield | FC1=C(C=CC=C1)C(C[N+](=O)[O-])C1=CNC2=CC(=C(C=C12)OC=1C=NC=NC1)C | C21H17FN4O3
